US06509328B1
9-(4-Fluoro-phenyl)-4-(3-tetrazol-1-yl-phenyl)-1,3-dihydro-benzo [b][1,4]diazepin-2-one
Prepared from {4′-fluoro-3-[3-oxo-3-(3-tetrazol-1-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic acid tert.-butyl ester (Example K56) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a light yellow solid (54 mg).

reactant | {4′-fluoro-3-[3-oxo-3-(3-tetrazol-1-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=C(C=C1)F)NC(CC(C1=CC(=CC=C1)N1N=NN=C1)=O)=O)=O | C27H25FN6O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 9-(4-Fluoro-phenyl)-4-(3-tetrazol-1-yl-phenyl)-1,3-dihydro-benzo [b][1,4]diazepin-2-one | 54 mg | FC1=CC=C(C=C1)C1=CC=CC2=C1NC(CC(=N2)C2=CC(=CC=C2)N2N=NN=C2)=O | C22H15FN6O
